US07173004B2
Prepared from 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid (50 mg, 0.075 mmol) and 1-benzyl-cyclopropanesulfonic acid amide (21 mg, 0.098 mmol, prepared as described above) to give [4-(1-benzyl-cyclopropanesulfonylaminocarbonyl)-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester as a white powder: 1H NMR (500 MHz, CD3Cl3) δ 1.23 (s, 9H), 1.04–1.92 (m, 14H), 1.96 (m, 1H), 2.32 (dd, J=17.7 Hz, 9.5 Hz, 1H), 2.59 (m, 1H), 2.70 (m, 2H), 3.20 (d, J=13.4 Hz, 1H), 3.41 (d, J=13.7 Hz, 1H), 4.02 (m, 1H), 4.29(m, 1H), 4.61 (m, 2H), 5.01 (d, J=7.6 Hz, 1H), 5.15 (m, 1H), 5.78 (m, 1H), 5.92 (s, 1H), 6.65 (s, 1H), 7.08 (d, J=8.2 Hz, 2H), 7.26 (m, 4H), 7.46 (t, J=7.3 Hz, 1H), 7.64 (t, J=7.3 Hz, 1H), 7.72 (d, J=8.2 Hz, 1H), 7.97 (d, J=5.8 Hz, 1H), 8.17 (d, J=8.9 Hz, 1H), 10.05 (s, 1H). LC-MS (Method A, retention time: 3.87 min), MS m/z 786 (M++1).

reactant | 14-tert-butoxycarbonylamino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid | 0.075 mmol, 50 mg | C(C)(C)(C)OC(=O)NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)O | C32H40N4O7
reactant | 1-benzyl-cyclopropanesulfonic acid amide | 0.098 mmol, 21 mg | C(C1=CC=CC=C1)C1(CC1)S(=O)(=O)N | C10H13NO2S
product | [4-(1-benzyl-cyclopropanesulfonylaminocarbonyl)-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1(CC1)CC1=CC=CC=C1)=O | C42H51N5O8S
